US07115645B2
a) 3-(5-Methoxy-2-nitrophenyl)aminobenzonitrile
2 g of 3-fluoro-4-nitroanisole and 15 ml of 3-aminobenzonitrile were stirred for 65 hours at 140° C. The batch was then diluted with ethyl acetate, washed three times with water and once with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 3-fluoro-4-nitroanisole | 2 g | FC=1C=C(C=CC1[N+](=O)[O-])OC | C7H6FNO3
reactant | 3-aminobenzonitrile | 15 ml | NC=1C=C(C#N)C=CC1 | C7H6N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-Methoxy-2-nitrophenyl)aminobenzonitrile | COC=1C=CC(=C(C1)NC=1C=C(C#N)C=CC1)[N+](=O)[O-] | C14H11N3O3
